US07399759B2
7-Chloro-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of 4-chloro-2-mercaptobenzoic acid (6.00 g, 31.8 mmol), 2-cyanopyridine (1.90 g, 17.7 mmol) and pyridine (50.0 ml) was refluxed for 9 hrs as described in Example 9. After cooling, the precipitated crystals were collected by filtration and recrystallized from hexane-chlorobenzene to give the titled compound (2.30 g, 48%).

reactant | 4-chloro-2-mercaptobenzoic acid | 31.8 mmol, 6.00 g | ClC1=CC(=C(C(=O)O)C=C1)S | C7H5ClO2S
reactant | 2-cyanopyridine | 17.7 mmol, 1.90 g | C(#N)C1=NC=CC=C1 | C6H4N2
solvent | pyridine | 50.0 ml | N1=CC=CC=C1 | C5H5N
product | 7-Chloro-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one | 2.30 g, 48% | ClC1=CC2=C(C(N=C(S2)C2=NC=CC=C2)=O)C=C1 | C13H7ClN2OS
